US09169261B2
To a solution of 5-bromopyrimidine-2-carboxylic acid (2.0 g, 9.9 mmol, 1 eq) and (S)-1-(pyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-amine (2.7 g, 9.9 mmol, 1 eq) in 20 mL of DMSO was added triethylamine (5.4 mL, 39 mmol, 3.9 eq) and HATU (4.1 g, 11 mmol, 1.1 eq). After stirring for 1 h at room temperature, the mixture was concentrated and purified by silica gel flash chromatography (EtoAc:MeOH 2:3) to produce (S)-5-bromo-N-(1-(pyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-yl)pyrimidine-2-carboxamide (5.0 g, 1.3 mmol, 13%).

reactant | 5-bromopyrimidine-2-carboxylic acid | 9.9 mmol, 2.0 g, 1 eq | BrC=1C=NC(=NC1)C(=O)O | C5H3BrN2O2
reactant | (S)-1-(pyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-amine | 9.9 mmol, 2.7 g, 1 eq | C=1(C=2N(C=CN1)C=CC2)N2C[C@H](CC2)N | C11H14N4
reactant | triethylamine | 39 mmol, 5.4 mL, 3.9 eq | C(C)N(CC)CC | C6H15N
reactant | HATU | 11 mmol, 4.1 g, 1.1 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | (S)-5-bromo-N-(1-(pyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-yl)pyrimidine-2-carboxamide | 1.3 mmol, 5.0 g, 13% | BrC=1C=NC(=NC1)C(=O)N[C@@H]1CN(CC1)C=1C=2N(C=CN1)C=CC2 | C16H15BrN6O
